US07517996B2
(Step B-1) Synthesis of 4-chloromethylbenzaldehyde
Under an argon atmosphere, 4-chloromethylbenzoic acid (15.08 g, 88.40 mmol) was dissolved in THF (150 ml), and 1M borane-THF complex (135 ml, 135.00 mmol) was slowly added dropwise under ice-cooling. The mixture was stirred at room temperature for 2 hours, 1N sulfuric acid (160 ml) was added, and the mixture was stirred for 1 hour and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained crude product was dissolved in dichloromethane (300 ml). Manganese dioxide (76.94 g, 885.0 mmol) was added, and the mixture was stirred overnight at room temperature. After filtration through celite, the filtrate was concentrated under reduced pressure to give the title compound (11.93 g, 87%).

reactant | 4-chloromethylbenzoic acid | 88.40 mmol, 15.08 g | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
reactant | sulfuric acid | 1N, 160 ml | S(O)(O)(=O)=O | H2O4S
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | Manganese dioxide | 885.0 mmol, 76.94 g | [O-2].[O-2].[Mn+4]
product | 4-chloromethylbenzaldehyde | 11.93 g, 87% | ClCC1=CC=C(C=O)C=C1 | C8H7ClO
